US04617314
A suspension of 4.0 g of methyl 2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylate and 3.37 g of 1-benzyl-2-aminomethyl-pyrrolidine in 15 ml of diethylene glycol is heated at 120°-130° C. and stirred for 30-31 hours. The reaction solution is cooled to room temperature, poured into 150-200 ml of water, and extracted with ethyl acetate three times. The ethyl acetate extract is washed with water followed by sodium chloride saturated water. The product is dried over magnesium sulfate and the solvent is distilled off under diminished pressure. The resulting residue is recrystallized from isopropanol by the use of decolorizing charcoal to give crystals of N-(1-benzyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide, m.p. 161°-167° C.

reactant | methyl 2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylate | 4.0 g | CC1OC2=C(C1)C=C(C=C2C(=O)OC)S(N)(=O)=O | C11H13NO5S
reactant | 1-benzyl-2-aminomethyl-pyrrolidine | 3.37 g | C(C1=CC=CC=C1)N1C(CCC1)CN | C12H18N2
reactant | water | 150-200 ml | O | H2O
solvent | diethylene glycol | 15 ml | C(COCCO)O | C4H10O3
product | N-(1-benzyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide | C(C1=CC=CC=C1)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(N)(=O)=O | C22H27N3O4S
